### PR TITLE
[ add ] `BooleanRing` plus `Properties`

### LINKED ISSUE #2704: Do we need a definition for `(Is)BooleanRing`?
Here, boolean algebra gives a commutative ring, but it shoud give more than that, .i.e.,  a boolean ring. On the other hand, there is no more other boolean ring except for the one comes from a boolean algebra.  I am not sure if we need such a defintion.  On the other other hand, at least, a usage will be clarifing the correspondence between boolean algebras and boolean rings.

https://github.com/agda/agda-stdlib/blob/6db08b3b2af9f220c016d2a79ace400ae60006a8/src/Algebra/Lattice/Properties/BooleanAlgebra.agda#L527

### PR DESCRIPTION
**Pull request by jamesmckinna**
Fixes #2704 based on @Taneb 's nudge towards `Boolean(Semi)Ring` as discussed there.

TODO:
- [x] `Boolean(Semi)Ring` yields `BooleanAlgebra`
- [x] `BooleanAlgebra` yields `BooleanRing`
- [x] fix `CHANGELOG`
- [ ] tidy up the proofs in `Algebra.Properties.Semiring`... subject to review ;-)

### CODE REVIEW

File: CHANGELOG.md [hunk 1]
```diff
@@ -254,9 +261,13 @@ Additions to existing modules
   ∣ˡ-preorder   : Preorder a ℓ _
   ```
 
-* In `Algebra.Properties.Semigroup` adding consequences for associativity for semigroups
+* In `Algebra.Properties.RingWithoutOne`:
+  ```agda
+  [-x][-y]≈xy : ∀ x y → - x * - y ≈ x * y
+  ```
```
Comment (jamesmckinna) [inline CHANGELOG.md:92]: Oops! This crept in by mistake from #2761 
```suggestion
```

File: src/Algebra/Properties/BooleanRing.agda [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+
+x+x≈0 : ∀ x → x + x ≈ 0#
+x+x≈0 x = begin
+  x + x         ≈⟨ +-cong (*-idem x) (*-idem x) ⟨
+  x * x + x * x ≈⟨ xy+yx≈0 x x ⟩
+  0#            ∎
+
+-x≈x : ∀ x → - x ≈ x
+-x≈x x = begin
+  - x ≈⟨ +-inverseˡ-unique x x (x+x≈0 x) ⟨
```
Comment (JacquesCarette) [inline src/Algebra/Properties/BooleanRing.agda]: Not worth using "equational reasoning" when it is exactly a 1-liner.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

**Comment by JacquesCarette** [comment]
Hmm, if the base is `Ring`, then it would make sense if there were properties of `1` proved here too. If `1` is not really involved (except that, well, it is in a `BooleanRing`), maybe `RingWithoutOne` is fine.

I guess it would be really weird for a "boolean ring" to have only false but not true. And then clearly `-` is not `not`! 

Probably this means that the main file needs more comments.

File: src/Algebra/Properties/BooleanRing.agda (hunk 2 above)
Comment (jamesmckinna) [reply src/Algebra/Properties/BooleanRing.agda]: ;-) I guess it's *one* way of avoiding explicit use of `sym` (and more generally, of `trans`) but, sure...

Comment (jamesmckinna) [reply src/Algebra/Properties/BooleanRing.agda]: But more seriously, I've been rethinking in favour of a more general API, viz.
* `x≈y⇒x+y≈0 : ∀ {x y} → x ≈ y → x + y ≈ 0#`
* `x+y≈0⇒x≈y : ∀ {x y} → x + y ≈ 0# → x ≈ y`

which *would* justify longer reasoning chains...

Comment (JacquesCarette) [reply src/Algebra/Properties/BooleanRing.agda]: That's a good more general API. I've used something like that in `agda-categories`. If you go that route, I'll support it.

Comment (jamesmckinna) [reply src/Algebra/Properties/BooleanRing.agda]: Now pushed, but not sure whether this is really an improvement, at least for deriving the eventual common-case corollaries?

**Comment by Taneb** [comment]
A thought on this:

If * is idempotent, then 1 = -1 * -1 = -1, so -x = -1 * x = 1 * x = x, so -_ ~ id. (not `not`!)

Can we have this based on _semiring_, and prove it's a ring? Note that this is only possible if we do have a multiplicative identity

**Comment by jamesmckinna** [comment]
@Taneb wrote:
> A thought on this:

I wasn't sure what to make of this...

> If * is idempotent, then 1 = -1 * -1 = -1, so -x = -1 * x = 1 * x = x, so -_ ~ id. (not `not`!)

... so such a proof would then indeed rely on rule-of-signs, and that would make this PR blocking on #2761

> Can we have this based on _semiring_, and prove it's a ring? Note that this is only possible if we do have a multiplicative identity

Ah!? By *defining* `-_ = id`? Intriguing! But we would need some kind of `Cancellative` structure on the underlying `+-commutativeMonoid` in order to prove `x+x≈0 : ∀ x → x + x ≈ 0#` so that `-_ = id` would then define an additive inverse?

**Comment by jamesmckinna** [comment]
Cf. @JacquesCarette 's https://github.com/agda/agda-stdlib/pull/2761#issuecomment-3058961916 about `Algebra.Consequences`...
... anticipating the need for `(1 + x) * (1 + y) ≈ 1 + x + y + x * y`, I added the simple binomial expansion formula to `Algebra.Consequences.*`, as we precisely *don't* have a structure corresponding to `SemiringWithoutOneOrZero` (as it were).

**Comment by jamesmckinna** [comment]
@Taneb I think you are right, to the extent that:
* an `IsCommutativeMonoid _+_ 0#` satisfying `Cancellative _+_`, plus
* an `IsMonoid _*_ 1#` satisfying `Idempotent _*_`, plus
* `_*_ DistributesOver _+_`

will have, as now in the current `Algebra.Properties.BooleanRing`:
* `x*y+y*x≈0`
* `y≈x⇒x+y≈0`
and hence
* `+-inverse-unique` for ` - x = x`, by `Cancellative _+_`

Thus the additive structure will in fact be an `IsAbelianGroup _+_ 0`, so we would indeed have an `Is(Commutative)Ring _+_ _*_ id 0 1`.

So for now, I'll replace the uses of `+-inverse-unique` by appeals to `Cancellative _+_` in the PR.

Let me know if you want to change the underlying API to:
```agda
record IsBooleanRing
         (+ * : Op₂ A) (0# 1# : A) : Set (a ⊔ ℓ) where
  field
    isSemiring : IsSemiring + * 0# 1#
    +-cancel   : Cancellative +
    *-idem     : Idempotent *

  open IsSemiring isSemiring public

  +-cancelˡ : LeftCancellative +
  +-cancelˡ = proj₁ +-cancel

  +-cancelʳ : RightCancellative +
  +-cancelʳ = proj₂ +-cancel

  *-isIdempotentMonoid :  IsIdempotentMonoid * 1#
  *-isIdempotentMonoid = record { isMonoid = *-isMonoid ; idem = *-idem }

  open IsIdempotentMonoid *-isIdempotentMonoid public
    using () renaming (isBand to *-isBand)
```

Everything indeed seems to work with such definition... but maybe that should be called `IsBooleanSemiring`, and leave the other definitions as they stand, but with `isBooleanRing` as a derivable property of `BooleanSemiring`s?

UPDATED: so committed, with various knock-ons such as needing to introduce a stub for `Algebra.Properties.CommutativeRing`, plus some figuring out to do about re-exports... advice welcome, please!

**Comment by jamesmckinna** [comment]
Hmm, not sure if after all that refactoring that I have the `public` re-exports exactly correct.

**Comment by jamesmckinna** [comment]
Converting to `DRAFT` in anticipation of v2.3, and not wanting to be bothered with `CHANGELOG` merge conflicts...

**Comment by jamesmckinna** [comment]
UPDATED
Thanks @JacquesCarette if you could help by pointing out what else needs fixing in `CHANGELOG`, I'd be grateful.
As for #1617 / #2771 it turns out I managed to dodge that particular problem!

**Review by Taneb — APPROVED** [review]

**Comment by jamesmckinna** [comment]
@JacquesCarette before merging can you return to your comments above on the change log, and identify what's missing? 
After a long gap it's harder for me to page back in what's left to do... probably for you too, but you had at least drawn attention to this...
